US06353006B1
To a solution of 6-aza-12-oxadispiro[4.1.4.2]tridecane (124 g, 0.69 mol) dissolved in EtOH (600 mL) held at −13° C. with an ice/MeOH bath was added NaBH4 (38 g, 1.0 mol, 1.45 equiv.) in portions at a rate that the temp. did not exceed 10° C. (approximately 30 min.). The reaction mixture was allowed to warm to room temp. and stirred overnight. The reaction mixture was diluted with water (500 mL) and concentrated under reduced pressure. The residual paste was separated between EtOAc (1 L) and water (600 mL). The organic layer was dried (Na2SO4) and concentrated under reduced pressure to yield 1-(cyclopentylamino)-1-(hydroxymethyl)cyclopentane as a white powder (107 g, 85%): 1H NMR (CDCl3) δ1.23-1.28 (m, 2H), 1.46-1.57 (m, 8H), 1.58-1.69 (m, 4H), 1.82-1.86 (m, 2H), 2.94-3.06 (m, 1H,), 3.30 (s, 2H).

reactant | 6-aza-12-oxadispiro[4.1.4.2]tridecane | 0.69 mol, 124 g | C1CCCC12NC1(CCCC1)OC2 | C11H19NO
reactant | NaBH4 | 1.0 mol, 38 g, 1.45 equiv. | [BH4-].[Na+]
solvent | EtOH | 600 mL | CCO | C2H6O
solvent | water | 500 mL | O | H2O
product | 1-(cyclopentylamino)-1-(hydroxymethyl)cyclopentane | 107 g, 85% | C1(CCCC1)NC1(CCCC1)CO | C11H21NO
